US09035073B2
Enantiomer 2 of 3-(3,4-difluorophenyl)-3-methoxy-1-methylpyrrolidine-1-oxide
Preparation according to Example 32: Enantiomer 2 of 3-(3,4-difluorophenyl)-3-methoxy-1-methylpyrrolidine (0.012 g, 0.052 mmol), dichloromethane (2 ml), 3-chloroperoxybenzoic acid (77%) (0.023 g, 0.104 mmol). The crude product was analyzed by LCMS (Qtrap, Applied Biosystems, Q1 MS), analysis showed <95% conversion: MS (m+1)/z; 244 (M+1, bp), 243 (4), 214 (9), 150 (3).

reactant | 3-(3,4-difluorophenyl)-3-methoxy-1-methylpyrrolidine | 0.052 mmol, 0.012 g | FC=1C=C(C=CC1F)C1(CN(CC1)C)OC | C12H15F2NO
reactant | 3-chloroperoxybenzoic acid | 0.104 mmol, 0.023 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 3-(3,4-difluorophenyl)-3-methoxy-1-methylpyrrolidine-1-oxide | FC=1C=C(C=CC1F)C1(C[N+](CC1)(C)[O-])OC | C12H15F2NO2
